US06207678B1
1-[2-(2-Trifluoromethylbenzoyl)imidazol-1-yl]-2-(3,4-dichlorophenyl)-4-(tetrahydropyran-2-yloxy)butane (0.68 g) (see Preparation 59) was dissolved in methanol (15 ml), which had been previously saturated with hydrogen chloride gas, and left to stand for 4 hours. The solvent was then removed under reduced pressure to give a residue which was partitioned between dichloromethane and saturated aqueous sodium hydrogen carbonate solution (the pH of the aqueous layer was kept at 8-9). The organic phase was separated and the aqueous phase extracted (twice) with dichloromethane. The organic phases were then combined, dried over anhydrous sodium sulphate and the solvent removed under reduced pressure to give 3-(3,4-dichlorophenyl)-4-[2-(2-trifluoromethylbenzoyl)imidazol-1-yl]butan-1-ol (0.41 g) as a white foam.

reactant | 1-[2-(2-Trifluoromethylbenzoyl)imidazol-1-yl]-2-(3,4-dichlorophenyl)-4-(tetrahydropyran-2-yloxy)butane | 0.68 g | FC(C1=C(C(=O)C=2N(C=CN2)CC(CCOC2OCCCC2)C2=CC(=C(C=C2)Cl)Cl)C=CC=C1)(F)F | C26H25Cl2F3N2O3
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 15 ml | CO | CH4O
product | 3-(3,4-dichlorophenyl)-4-[2-(2-trifluoromethylbenzoyl)imidazol-1-yl]butan-1-ol | 0.41 g | ClC=1C=C(C=CC1Cl)C(CCO)CN1C(=NC=C1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C21H17Cl2F3N2O2
